US05354839
To a reducing apparatus equipped with a thermometer, reflux condenser and stirrer, 55 g (0.131 mol) of 1,3-bis(3-nitrophenoxy)-5-trifluoromethylbenzene, 150 g of methyl cellosolve and 5 g of 5% Pd/c having a moisture content of 50% were charged and reacted in a hydrogen atmosphere at 70°~80° C. for 4 hours. After finishing the reaction, the catalyst was filtered off. The filtrate was heated to 90° C., mixed with 140 g of water and cooled to room temperature. The precipitated crystals were filtered and dried under reduced pressure to obtain 1,3-bis(3-aminophenoxy)-5-trifluoromethyl benzene as colorless solid. The product was 41 g (87% yield) and had a melting point of 98.0°~98.6° C.

reactant | 1,3-bis(3-nitrophenoxy)-5-trifluoromethylbenzene | 0.131 mol, 55 g | [N+](=O)([O-])C=1C=C(OC2=CC(=CC(=C2)C(F)(F)F)OC2=CC(=CC=C2)[N+](=O)[O-])C=CC1 | C19H11F3N2O6
reactant | hydrogen | [H][H] | H2
catalyst | Pd | 5 g | [Pd] | Pd
solvent | methyl cellosolve | 150 g | COCCO | C3H8O2
product | 1,3-bis(3-aminophenoxy)-5-trifluoromethyl benzene | 87% yield | NC=1C=C(OC2=CC(=CC(=C2)C(F)(F)F)OC2=CC(=CC=C2)N)C=CC1 | C19H15F3N2O2
